US04143139
The 3-(3,5-dimethoxyphenyl)butyltriphenylphosphonium bromide is prepared by refluxing a mixture of 1-bromo-3-(3,5-dimethoxyphenyl)butane (21.5 g., 78.5 mmoles) and triphenyl phosphine (20.5 g., 78.5 mmoles) in xylene (60 ml.) for 18 hours. The reaction mixture is then cooled to room temperature and filtered. The filter cake is washed with ether and dried in a vacuum desicator to give 36.4 g. (86%) yield of product; m.p. 190°-200° C.

reactant | 1-bromo-3-(3,5-dimethoxyphenyl)butane | 78.5 mmoles, 21.5 g | BrCCC(C)C1=CC(=CC(=C1)OC)OC | C12H17BrO2
reactant | triphenyl phosphine | 78.5 mmoles, 20.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | xylene | 60 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-(3,5-dimethoxyphenyl)butyltriphenylphosphonium bromide | [Br-].COC=1C=C(C=C(C1)OC)C(CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C30H32O2P.BrH/c1-24(25-21-26(31-2)23-27(22-25)32-3)19-20-33(28-13-7-4-8-14-28,29-15-9-5-10-16-29)30-17-11-6-12-18-30;/h4-18,21-24H,19-20H2,1-3H3;1H/q+1;/p-1
